US06833456B2
To 5 mL of anhydrous THF was added 1.50 g (5.62 mmol) of (2S,4R)-4-Methoxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester and the mix was cooled to 0° C. To reaction mixture was added 3.34 mL of LiBH4 (2.0 M in THF) drop-wise over 5 min and was then stirred for 2 h. The mixture was quenched with 1 mL of Sat. NaHCO3, diluted with 50 mL of EtOAc and washed with Sat. NaHCO3 (2×50 mL). The organic layer was dried over NaSO4 and concentrated to give an amber oil. Purification was accomplished through 50 mL of silica eluting with EtOAc/CH2Cl2 (7:3). The pure factions were combined, concentrated and subsequently put on the high vacuum for 24 h to give 1.3 g (92%) of (2S, 4R)-2-Hydroxymethyl-4-methoxy-pyrrolidine-1-carboxylic acid benzyl ester as clear oil. HPLC: Rt 3.41 min. (100% area). 1H NMR (CDCl3, 300 MHz) δ; 7.51-7.38 (5H, m), 5.24-5.00 (2H, m), 4.45-4.40 (1H, m), 4.23-4.18 (1H, m), 3.95-3.73 (3H, m), 3.51-3.42 (1H, m), 3.31 (3H, s), 2.22-2.14 (1H, m). LCMS (APCI) (M+H+) m/z: 266.2.

reactant | (2S,4R)-4-Methoxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester | 5.62 mmol, 1.50 g | COC(=O)[C@H]1N(C[C@@H](C1)OC)C(=O)OCC1=CC=CC=C1 | C15H19NO5
reactant | LiBH4 | 2.0 M, 3.34 mL | [Li+].[BH4-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2S, 4R)-2-Hydroxymethyl-4-methoxy-pyrrolidine-1-carboxylic acid benzyl ester | 1.3 g, 92% | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC)CO | C14H19NO4
